US04822805
To a suspension of 1-hydroxyimino-1-(3-pyridyl)acetone (3.3 g) in a mixture of dioxane (80 ml), ethanol (20 ml) and conc. ammonia water (40 ml) was added 4-acetamido-5-chloro-2-methoxybenzaldehyde (4.54 g) and the resultant mixture was stirred at ambient temperature for 3 days. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of ethyl acetate and 5% hydrochloric acid. The separated aqueous layer was adjusted to pH8.0 with 20% potassium carbonate under stirring and the precipitate was collected by filtration and dried to give 1-hydroxy-2-(4-acetamido-5-chloro-2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole (3.1 g).

reactant | 1-hydroxyimino-1-(3-pyridyl)acetone | 3.3 g | ON=C(C(=O)C)C=1C=NC=CC1 | C8H8N2O2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | ammonia water | 40 ml | O.N
reactant | 4-acetamido-5-chloro-2-methoxybenzaldehyde | 4.54 g | C(C)(=O)NC1=CC(=C(C=O)C=C1Cl)OC | C10H10ClNO3
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 1-hydroxy-2-(4-acetamido-5-chloro-2-methoxyphenyl)-4-methyl-5-(3-pyridyl)imidazole | 3.1 g | ON1C(=NC(=C1C=1C=NC=CC1)C)C1=C(C=C(C(=C1)Cl)NC(C)=O)OC | C18H17ClN4O3
